*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
V  1 0 5.03993052267V

* input voltage source
*Vin 1 0 0.0 ac 1.0 sin(0 .1 100k)
Vb 2 5 
*Resistencias(acho eu)
R1 1 2 1.00377057233k
R2 2 3 2.0694578747k
R3 2 5 3.11494140037k
R4 5 0 4.19664806451k
R5 5 6 3.09643940177k
R6 0 7 2.09919602758k 
R7 7 8 1.00620732709k 

* supply current
I  6 8 1.0174579624ma 

*dependent sources
*Voltage
G  5 8 0 7 8.22132225609
*current
H  3 6 5 2 7.16450079517

.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
print V
print I
print H

.endc


.end
